US06252080B1
5-Chloro-N-[(4-chlorophenyl)methyl]-8-hydroxy-7-quinolinesulfonamide (Formula J-5 wherein R1=H, X1=Cl, and R2=CH2-4-ClC6H4) Refer to Chart J
Under N2, a flame-dried, 50-mL, two-necked flask is charged with 5-chloro-N-[(4-chlorophenyl)methyl]-8-methoxy-7-quinolinesulfonamide (0.322 g), which is the first title compound of Preparation 9, and CH2Cl2 (20 mL) and is cooled in a dry ice/acetone bath. 1.0 M BBr3 (1.05 mL) is added dropwise. The cooling bath is removed and the reaction mixture is allowed to stir for 1.5 hrs. It is then poured into 75 mL 5% NaHCO3 aqueous solution, and the layers are separated. The aqueous layer is extracted twice with CH2Cl2. The combined organic layers are washed with H2O and then brine, dried over MgSO4, filtered and concentrated to a brown residue. Purification by column chromatography (elution with 2-5% MeOH/ CH2Cl2 with <1% AcOH) yields 0.037 g of the title compound as a pale yellow solid.

reactant | 5-chloro-N-[(4-chlorophenyl)methyl]-8-methoxy-7-quinolinesulfonamide | 0.322 g | ClC1=C2C=CC=NC2=C(C(=C1)S(=O)(=O)NCC1=CC=C(C=C1)Cl)OC | C17H14Cl2N2O3S
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | 5-Chloro-N-[(4-chlorophenyl)methyl]-8-hydroxy-7-quinolinesulfonamide | ClC1=C2C=CC=NC2=C(C(=C1)S(=O)(=O)NCC1=CC=C(C=C1)Cl)O | C16H12Cl2N2O3S
